US07495103B2
Ethyl 2,4-dimethoxyquinoline-3-carboxylate (1.5 g, 5.7 mmol) was heated at reflux in NaOH solution (10%, 100 mL) for 1 h. After cooling, the mixture was acidified with concentrated HCl to pH 4. The resulting precipitate was collected via filtration and washed with water and ether to give 2,4-dimethoxyquinoline-3-carboxylic acid (A-17) as a white solid (670 mg, 50%). 1H NMR (CDCl3) δ 8.01-8.04 (d, J=12 Hz, 1H), 7.66-7.76 (m, 2H), 7.42-7.47 (t, J=22 Hz, 2H), 4.09 (s, 3H). 3.97 (s, 3H); ESI-MS 234.1 m/z (MH+).

reactant | Ethyl 2,4-dimethoxyquinoline-3-carboxylate | 5.7 mmol, 1.5 g | COC1=NC2=CC=CC=C2C(=C1C(=O)OCC)OC | C14H15NO4
reactant | HCl | Cl | ClH
solvent | NaOH | 100 mL | [OH-].[Na+]
product | 2,4-dimethoxyquinoline-3-carboxylic acid | 670 mg, 50% | COC1=NC2=CC=CC=C2C(=C1C(=O)O)OC | C12H11NO4
